US04415572
8-(1-Piperazinyl)carbostyril (0.7 g, 2.26 mmols) and sodium hydrogencarbonate (0.2 g) were suspended in 5 ml of DMF and the suspension was stirred at room temperature for 30 minutes. To the resulting mixture was added 0.4 ml of triethylamine, and further a solution of 0.47 g of 2-chlorobenzoyl chloride in 5 ml of DMF dropwise, followed by stirring at room temperature for 30 minutes. The reaction mixture was poured in saturated aqueous sodium hydrogencarbonate and extracted with chloroform. The organic layer was washed with water and then with saturated aqueous sodium hydrogencarbonate and dried over sodium sulfate. After distilling off the solvent, ether was added to the residue to crystallize. The crystals thus obtained were recrystallized from ethanol to give 0.24 g of 8-[4-(2-chlorobenzoyl)-1-piperazinyl]carbostyril, m.p. 239°-240.5° C., colorless needles.

reactant | 8-(1-Piperazinyl)carbostyril | 2.26 mmols, 0.7 g | N1(CCNCC1)C=1C=CC=C2C=CC(NC12)=O | C13H15N3O
reactant | triethylamine | 0.4 ml | C(C)N(CC)CC | C6H15N
reactant | 2-chlorobenzoyl chloride | 0.47 g | ClC1=C(C(=O)Cl)C=CC=C1 | C7H4Cl2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | sodium hydrogencarbonate | 0.2 g | C(O)([O-])=O.[Na+]
product | 8-[4-(2-chlorobenzoyl)-1-piperazinyl]carbostyril | 0.24 g | ClC1=C(C(=O)N2CCN(CC2)C=2C=CC=C3C=CC(NC23)=O)C=CC=C1 | C20H18ClN3O2
